US06956047B1
2,4-Dichloro-3,6-dimethylpyridine
A mixture of 2,4-dihydroxy-3,6-dimethylpyridine (2.86 g, 20.58 mmol), POCl3 (15 ml) and N,N-dimethylaniline (3.6 ml, 22.64 mmol) was heated at reflux for 3 hours. The mixture was cooled, poured into ice water and extracted with diethyl ether. The organic layer was dried and concentrated to give 3.02 g of the crude material. After silica gel column chromatography using chloroform as eluent, 1.3102 g of the title compound was obtained as a yellow oil. 1H NMR (CDCl3) δ 7.07 (s, 1H), 2.43 (s, 3H), 2.39 (s, 3H) ppm.

reactant | 2,4-dihydroxy-3,6-dimethylpyridine | 20.58 mmol, 2.86 g | OC1=NC(=CC(=C1C)O)C | C7H9NO2
reactant | POCl3 | 15 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 22.64 mmol, 3.6 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,4-Dichloro-3,6-dimethylpyridine | 1.3102 g | ClC1=NC(=CC(=C1C)Cl)C | C7H7Cl2N
